US06921763B2
A mixture of N-(4-bromophenyl)-N-(1H-3-indazolyl)amine (0.29 g, 0.00101 mol), diboron pinacol ester (0.31 g, 0.00121 mol), [1.1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (II) complex with dichloromethane (1:1) (0.025 g, 0.00003 mol) and potassium acetate (0.294 g, 0.003 mol) in N,N-dimethylformamide (35 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent was removed under reduced pressure. Dichloromethane (70 mL) was added to the residue and the resulting solid was removed by filtration through a pad of Celite. The filtrate was concentrated to leave a yellow oil that was purified by flash chromatography on silica using ethyl acetate/n-heptane (1:3) as mobile phase to yield N-(1H-3-indazolyl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (0.064 g, 0.000191 mol) as an off-white solid.

reactant | N-(4-bromophenyl)-N-(1H-3-indazolyl)amine | 0.00101 mol, 0.29 g | BrC1=CC=C(C=C1)NC1=NNC2=CC=CC=C12 | C13H10BrN3
reactant | diboron pinacol ester | 0.00121 mol, 0.31 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.00003 mol, 0.025 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.003 mol, 0.294 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | N-(1H-3-indazolyl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.000191 mol, 0.064 g | N1N=C(C2=CC=CC=C12)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H22BN3O2
